US09340556B2
To a solution of 1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid (5 g, 19.07 mmol) in sulfuric acid (15 mL) cooled to 0° C. was added potassium nitrate (2.121 g, 20.97 mmol) in small portions to maintain temperature bellow 10° C. with ice water. The mixture was stirred at 10° C. for 1 h and at room temperature for 12 h, and was then poured into ice cold water (200 ml). The mixture was filtered, the solid was washed with water and ethanol to afford 1-ethyl-5-nitro-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid (4.4 g, 14.32 mmol, 75% yield). LCMS: (M+H)+: 308.2

reactant | 1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid | 19.07 mmol, 5 g | C(C)N1N=C(C(C2=CC3=C(C=C12)OCO3)=O)C(=O)O | C12H10N2O5
reactant | potassium nitrate | 20.97 mmol, 2.121 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
product | 1-ethyl-5-nitro-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid | 14.32 mmol, 4.4 g, 75% yield | C(C)N1N=C(C(C2=C(C3=C(C=C12)OCO3)[N+](=O)[O-])=O)C(=O)O | C12H9N3O7
